### ISSUE TITLE
[Bug]: `falsification_params_are_immutable` proves `4 = 4 ∧ 3 = 3`, not immutability under governance

### ISSUE THREAD

**Issue by xcoder-es** [Nomos-N4s/nomos#296]
> Part of the adversarial-audit epic #287 — **B2**. High tier: a second headline "Lean 4 theorem proven" reduces to a tautology over two numeric literals.

### Prerequisites

- [x] I have searched existing issues and this bug has not been reported.
- [x] I am running the latest version of the framework (`main` branch).
- [x] I have read the CONTRIBUTING.md guidelines.

### What happened?

`README.md:75` lists `falsification_params_are_immutable` among the four "Lean 4 theorems proven". The section comment introducing it claims something much stronger than the theorem states.

`gov-budget-proof/GovBudgetProof/VoteAndFalsification.lean:177-187`:

```lean
/-
  Falsification parameters are immutable-tier: no governance procedure
  can change TAG_COMPLIANCE_THRESHOLD or FALSIFICATION_BUDGET_CUTOFF.
-/

def falsificationParamsImmutable : Prop :=
  TAG_COMPLIANCE_THRESHOLD = 4 ∧ FALSIFICATION_BUDGET_CUTOFF = 3

theorem falsification_params_are_immutable : falsificationParamsImmutable := by
  unfold falsificationParamsImmutable
  constructor <;> rfl
```

Both operands are their own literals — `def TAG_COMPLIANCE_THRESHOLD : Nat := 4` at `gov-budget-proof/GovBudgetProof/VoteAndFalsification.lean:108` and `def FALSIFICATION_BUDGET_CUTOFF : Nat := 3` at `gov-budget-proof/GovBudgetProof/VoteAndFalsification.lean:145` — so after delta-reduction the proposition is `4 = 4 ∧ 3 = 3`. `#print axioms` reports no axiom dependency at all: it is pure definitional unfolding.

Immutability is not a property a Lean `def` can have. Every `def` equals its own body by `rfl`, so this theorem would be equally provable for a parameter the running system mutates on every tick. The file contains no governance model to be immutable *against*: no state, no update or transition function, no quantification over governance actions, no tier assignment. The same unsupported claim also appears in the file header bullet at `gov-budget-proof/GovBudgetProof/VoteAndFalsification.lean:9`.

The repo already has the machinery that would make the claim real and does not use it here: `gov-budget-proof/GovBudgetProof/IdentityTiers.lean:68-73` defines `isPermitted` with `| Tier.immutable => False`, and `gov-budget-proof/GovBudgetProof/IdentityTiers.lean:76-80` proves `immutable_parameters_never_change (c : Change) : ¬ isPermitted Tier.immutable c`, which at least quantifies over changes. The falsification parameters are never connected to that model — `IdentityTiers.lean` and `VoteAndFalsification.lean` share no import.

- Expected: a theorem named `..._are_immutable` quantifies over governance actions and shows none of them alters the parameters.
- Actual: `gov-budget-proof/GovBudgetProof/VoteAndFalsification.lean:185-187` proves `4 = 4 ∧ 3 = 3` by `constructor <;> rfl`, while the comment at lines 178-179 asserts "no governance procedure can change" them.

### Steps to Reproduce

```bash
cd gov-budget-proof
sed -n '177,187p' GovBudgetProof/VoteAndFalsification.lean

cp GovBudgetProof/VoteAndFalsification.lean /tmp/Vote.lean
printf '\n#print axioms falsification_params_are_immutable\nexample : falsificationParamsImmutable := ⟨rfl, rfl⟩\ntheorem trivially_same : (4 : Nat) = 4 ∧ (3 : Nat) = 3 := by constructor <;> rfl\n' >> /tmp/Vote.lean
elan run leanprover/lean4:v4.32.1 lean /tmp/Vote.lean

grep -n 'falsification_params_are_immutable' ../README.md
grep -rn 'import' GovBudgetProof/IdentityTiers.lean GovBudgetProof/VoteAndFalsification.lean
```

### Relevant Logs / Traceback

```shell
$ elan run leanprover/lean4:v4.32.1 lean /tmp/Vote.lean
'falsification_params_are_immutable' does not depend on any axioms
# the appended `example` and `trivially_same` both typecheck — exit 0

$ grep -n 'falsification_params_are_immutable' ../README.md
75:                                 budget_preserves_positive, falsification_params_are_immutable

$ grep -rn 'import' GovBudgetProof/IdentityTiers.lean GovBudgetProof/VoteAndFalsification.lean
# (no output — neither file imports the other's tier model)
```

### Version

commit 25930de (main, v0.15.1)

### Environment

Other

### Component

Documentation / Book

### Additional Context

**Definition of Done**

- [ ] A `FalsificationParams` structure plus an `applyGovernance : FalsificationParams → Change → Tier → FalsificationParams` exist, and `∀ p c, applyGovernance p c Tier.immutable = p` is proved.
- [ ] That proof is derived from `immutable_parameters_never_change` (`gov-budget-proof/GovBudgetProof/IdentityTiers.lean:76-80`) so the two files' tier models are actually linked by an import rather than by prose.
- [ ] The tautology `falsification_params_are_immutable` is deleted, or kept only as a named constant-value check with a docstring that says so.
- [ ] Until a real invariance theorem exists, `README.md:75` no longer names it as a proven theorem, and the claims at `gov-budget-proof/GovBudgetProof/VoteAndFalsification.lean:9` and `:178-179` say the parameters are *declared* immutable-tier, not proven unchangeable.
- [ ] `lake build` still succeeds on the pinned toolchain.

**Verification note**

Related to but distinct from audit finding B1: both are headline README theorems with no domain content, but this one needs a modelling fix (a governance transition to be invariant under), not just a rename. `IdentityTiers.immutable_parameters_never_change` is itself sound — the defect is the *absence of any link* between it and the falsification parameters, so please do not "fix" that theorem.
